US06562811B1
To a cooled (0° C.) solution of tert-butyl 3-[2-amino-6-{2-(cyclopropylmethoxy)-6-[(4-methoxybenzyl)oxy]phenyl}-3-(hydroxymethyl)-4-pyridinyl]-1-piperidinecarboxylate (5.0 g, 8.478 mmol), which was obtained in the step (2) of Example 17-1, and diisopropylethyl amine (4.12 mL, 25.435 mmol) in tetrahydrofuran (200 mL) under argon atmosphere was added dropwise to a solution of triphosgene (1.258 g, 4.239 mmol) in tetrahydrofuran (100 mL). The mixture was allowed to warm to room temperature, and the stirring was continued for 3 hrs. After quenched by water, the mixture was extracted with ethyl acetate. The separated organic phase was washed with brine, dried over MgSO4, filtered, and concentrated under reduced pressure. The resulting residue was purified by column chromatography on Silica-gel (hexane/ethyl acetate=1/1) to give tert-butyl 3-(7-{2-(cyclopropylmethoxy)-6-[(4-methoxybenzyl)oxy]phenyl}-2-oxo-1,4-dihydro-2H-pyrido[2,3-d][1,3]oxazin-5-yl)-1-piperidinecarboxylate as a white form (3.2 g, yield; 61%).

reactant | tert-butyl 3-[2-amino-6-{2-(cyclopropylmethoxy)-6-[(4-methoxybenzyl)oxy]phenyl}-3-(hydroxymethyl)-4-pyridinyl]-1-piperidinecarboxylate | 8.478 mmol, 5.0 g | NC1=NC(=CC(=C1CO)C1CN(CCC1)C(=O)OC(C)(C)C)C1=C(C=CC=C1OCC1=CC=C(C=C1)OC)OCC1CC1 | C34H43N3O6
reactant | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | diisopropylethyl amine | 25.435 mmol, 4.12 mL | C(C)(C)N(CC)C(C)C | C8H19N
